US05167949
d) 4-Amino-2-[(2,2,2-trifluoroethoxy)methyl]pteridine
Obtained using the procedure described in section c of Example 2, starting with 7.2 g (0.060 mole) of 3-amino-2-pyrazinecarbonitrile and 14.2 g (0.091 mole) of 2-(2,2,2-trifluoroethoxy)acetamidine in 230 ml of absolute ethanol. Refluxing time: 7 hours. Yld: 6.5 g (42%), m.p. 145°-147° C. (ethyl acetate).

reactant | 3-amino-2-pyrazinecarbonitrile | 0.060 mole, 7.2 g | NC=1C(=NC=CN1)C#N | C5H4N4
reactant | 2-(2,2,2-trifluoroethoxy)acetamidine | 0.091 mole, 14.2 g | FC(COCC(=N)N)(F)F | C4H7F3N2O
reactant | ethyl acetate | C(C)(=O)OCC | C4H8O2
solvent | ethanol | 230 ml | C(C)O | C2H6O
product | 4-Amino-2-[(2,2,2-trifluoroethoxy)methyl]pteridine | NC1=NC(=NC2=NC=CN=C12)COCC(F)(F)F | C9H8F3N5O
